US06001847
Methyl 1,2,3,4-tetrahydro-1-(4-hydroxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, trans isomer
To a stirred solution of racemic tryptophan methyl ester (3 g ) and 4-hydroxybenzaldehyde (1.84 g) in anhydrous dichloromethane (50 mL) cooled at 0° C. was added dropwise trifluoroacetic acid (1.27 mL) and the solution was allowed to react at ambient temperature. After 22 hours, the solution was washed with a saturated solution of NaHCO3, then with water, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography eluting with ethyl acetate to give the title compound (3.48 g) as an off-white solid m.p.:233-235° C.

reactant | racemic tryptophan methyl ester | 3 g | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 4-hydroxybenzaldehyde | 1.84 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | trifluoroacetic acid | 1.27 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl 1,2,3,4-tetrahydro-1-(4-hydroxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | 3.48 g | OC1=CC=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C19H18N2O3
